US04683236
Preparation of 1-Isopropylergoline-8β-carboxylic acid
A reaction mixture was prepared by combining 25 g of methyl 1-isopropyl-6-cyanoergoline-8β-carboxylate. 8.89 NaOH pellets and 250 ml of ethylene glycol. The reaction mixture was heated in the range 130°-40° C. for about 3 hours. 750 ml of water were added. The pH of the resulting solution was adjusted to about 5 with glacial acetic acid (30 mls.). Crystals began to form and the solution was chilled overnight. The crystals were separated by filtration and the filter cake washed with water; yield (after drying)=19.6 g of 1-isopropylergoline-8β-carboxylic acid, (97.3% pure by HPLC).

reactant | methyl 1-isopropyl-6-cyanoergoline-8β-carboxylate | 25 g | C(C)(C)N1C=C2C[C@H]3N(C[C@@H](C[C@@H]3C=3C=CC=C1C32)C(=O)OC)C#N | C20H23N3O2
reactant | NaOH | [OH-].[Na+]
reactant | ethylene glycol | 250 ml | C(CO)O | C2H6O2
reactant | water | 750 ml | O | H2O
solvent | acetic acid | 30 mls | C(C)(=O)O | C2H4O2
product | 1-Isopropylergoline-8β-carboxylic acid | C(C)(C)N1C=C2C[C@H]3NC[C@@H](C[C@@H]3C=3C=CC=C1C32)C(=O)O | C18H22N2O2
